US07348310B2
Synthesis of Leu-Pro-OBn as Chlorhydrate Salt (A5)
To a flask containing Boc-Leu-Pro-OBn (113.8 g, 272 mmol) a solution of hydrogen chloride in dioxane (209 ml, 5.3 N) was added and the stirring was continued for 5 h or until total conversion by TLC (disappearance of starting material; Rf=0.47 (hex-EtOAc 2:1, silica). The solution was concentrated under reduced pressure and the resulting oil was chased with CHCl3 (3×50 ml), CHCl3-MTBE (30 ml-50 ml), MTBE (50 ml) and hex (50 ml). The residue was dried under vacuum (16 h) to remove residual HCl, to give the title compound as a white solid. A5 (96.4 g, 100%) was used directly without further purification in the next step. [α]D22−85.21 (c=1, CHCl3).

reactant | Boc-Leu-Pro-OBn | 272 mmol, 113.8 g | N([C@@H](CC(C)C)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C23H34N2O5
reactant | hydrogen chloride | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 5.3 N, 209 ml | O1CCOCC1 | C4H8O2
product | Leu-Pro-OBn | N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C18H26N2O3
